### PR TITLE
Isomorphisms

### LINKED ISSUE #103: Proposal: use locality at a family as primary definition by convention
It seems preferrable that we use locality conditions by default, as this allows us to do the old reexport-and-rename to get all of the basic closure properties with little boilerplate, as in:

```agda
open gSubU Precat-gSubU public using () renaming
  ( ∈S←equiv to is-precategory←equiv)

open gReflectiveClosure Precat-gRSubU public using () renaming
  ( Π∈S to Π-is-precategory
  ; ULift∈S to ULift-is-precategory
  ; 𝟙∈S to 𝟙-is-precategory
  ; ∈S←is-singleton to is-precategory←is-singleton
  ; ∈S←retract to is-precategory←retract
  ; Pullback∈S to Pullback-is-precategory
  ; fibre∈S to fibre-is-precategory
  ; Ext∈S to Ext-is-precategory
  ; ×∈S to ×-is-precategory
  ; ＝∈S to ＝-is-precategory
  ; ~∈S to ~-is-precategory
  ; retract∈S to retract-is-precategory
  ; biinv∈S to biinv-is-precategory
  ; ≃∈S to ≃-is-precategory
  ; Equaliser∈S to Equaliser-is-precategory
  ; Seq-lim∈S to Seq-lim-is-precategory
  ; preidempotent-map∈S to preidempotent-map-is-precategory
  ; qidempotent-map∈S to qidempotent-map-is-precategory
  ; idempotent-map∈S to idempotent-map-is-precategory
  ; Retracts∈S to Retracts-is-precategory)

open gRSubUHomClosure Precat-gRSubU public using () renaming
  ( Hom∈S to Hom-is-precategory )
```

or, for function classes (#90):

```agda
open FF public using () renaming
  ( ∈R←base-change to is-ff←base-change
  ; ∈R←equiv to is-ff←equiv
  ; ∈R←equiv' to is-ff←equiv'
  ; ∈R←is-equiv to is-ff←is-equiv
  ; ∈R-iff←equiv to is-ff-iff←equiv
  ; ∈R←retraction to is-ff←retraction
  ; ∈R-∘ to is-ff-∘
  ; ∈R-left-cancel to is-ff-left-cancel
  ; ∈R←homotopy to is-ff-homotopy
  ; ∈R-∘~ to is-ff-∘~
  ; ∈R-left-cancel~ to is-ff-left-cancel~)
```

Of course, the usual characerisations as respectively "Segal and simplicial types", and "maps whose action on homs are equivalences" are indispensable, and those should be formalised as theorems. This proposal is about how to organise the primary definitions.

### TODOs

- [ ] Add infrastructure for taking (disjoint) sums of families of maps
- [ ] Formalise joins/meets of reflective subuniverses?
- [ ] Refactor present definitions: covariant families, left fibrations,... (this could even extend to such things as truncated types, embeddings, surjections)

### LINKED ISSUE #132: Associativity of composition in Segal types
It turns out the associativity proof of composition in Segal types presented in Riehl–Shulman 17 (Proposition 5.9) works more generally without the simplicial axiom.

### PR DESCRIPTION
**Pull request by fredrik-bakke**
### Summary
- [X] Define split monos/epis
- [X] Basic closure properties of split morphisms
- [X] Define the walking split morphism
- [ ] ~Show the walking split morphism represents split monos/epis~
- [X] Define isos
- [X] Basic closure properties of isos
- [X] Universal properties of isos
- [X] Being an iso is a property
- [X] Every morphism in a groupoid is an iso
- [X] Define the walking iso
- [X] Show the walking iso represents isos _among Segal types_
- [X] Define categories
- [X] Show that the orthogonality condition and the iso-identity condition for categories are equivalent _among Segal types_
- [X] Define isofibrations
- [X] Define conservative maps
- [X] Basic closure properties of conservative maps
- [ ] ~Show that the orthogonality condition and the iso-reflecting condition for conservative maps are equivalent~
- [X] Show fully faithful maps reflect isos
- [X] Natural isomorphisms 
- [X] Define essentially surjective maps
- [X] Basic closure properties of essentially surjective maps

To facilitate these changes I've added:
- Associativity of composition in segal types #132
- Cofibres of maps
- Functoriality of coproducts for families of maps #103 

Other changes:
- Clean up uses of `homotopy-is-equiv`, including renaming it to `is-equiv←~⁻¹`
- Prove a bunch of coherences of equivalences directly, to avoid `is-equiv←qinv`
- Use `tr` consistently for `coe (ap ...)`, including helpers
- Use `Wedge` more consistently
- Introduce and use `bwd-is-equiv` 
- Transposition of equality along inverses
- Rename `NT` to `Nat`
- Horizontal composition of natural transformations
- Move `Hom2` to new module `Synthetic.Triangles`
- Move the walking left homotopy to new module `Synthetic.Categories.WalkingHomotopy`

Resolves #88 
Resolves #132

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
What remains is obviously the hard part, but I've made great progress on those targets too. Just wanted to get something posted.

**Comment by fredrik-bakke** [comment]
I have a complete proof of associativity now, just need to tidy up before I push

**Comment by fredrik-bakke** [comment]
Renaming natural transformations from `NT` to `Nat`, because why would anyone want to call it the former?????

**Comment by samtoth** [comment]
Would you be able to quickly merge in the comit I just made to main so that (hopefully) I can use the PR preview?

File: src/Core/CanonicalPushouts.lagda.tree [hunk 1]
```diff
@@ -484,3 +484,27 @@ Pushout-assoc-is-equiv f g h i .snd .snd = pushout-ind _
                ∙ sym (ap-id (glue d))))))
 }
 }
+\subtree[fre-3C88]{
+\title{Maps out of pushouts as extension types}
+\taxon{Lemma}
+\author{fredrikbakke}
+\date{2026-05-03}
+
```
Comment (samtoth) [inline src/Core/CanonicalPushouts.lagda.tree:480]: An informal statement here would be nice

File: src/Synthetic/Categories/Adjoints.lagda.tree [hunk 2]
```diff
@@ -57,10 +56,10 @@ is-left-adjoint←is-equiv
   : ∀ {𝓤 𝓥} {A : Type 𝓤} {B : Type 𝓥}
     → {f : A → B} → (fe : is-equiv f)
     → f ⊣ (is-equiv.bwd fe)
-is-left-adjoint←is-equiv {f = f} fe a b
-  = Hom _ (f a) b             ≃⟨ mk≃ _ (is-ff'←is-equiv (is-equiv⁻¹ fe)) ⟩
-    Hom _ (bwd (f a)) (bwd b) ≃⟨ mk≃ _ (adjust-hom-is-equiv (η _) refl) ⟩
-    Hom _ a (bwd b) ≃∎
+is-left-adjoint←is-equiv {A = A} {B = B} {f = f} fe a b
+  = Hom B (f a) b             ≃⟨ mk≃ _ (is-ff'←is-equiv (is-equiv⁻¹ fe)) ⟩
```
Comment (samtoth) [inline src/Synthetic/Categories/Adjoints.lagda.tree:60]: I feel like we should maybe remove the type argument from Hom - e.g. we don't tend to write `Id A a b` very often. I propose the non dependent hom should have its type implicit (Agda should almost always be able to infer it), and we offer a `Hom:_` for when we need to annotate.

File: src/Synthetic/Categories/Isomorphisms.lagda.tree [hunk 3]
```diff
@@ -0,0 +1,562 @@
...
+
+module _ {𝓤} {A : Type 𝓤} (𝐴 : is-segal A) where
+
+  is-iso-is-prop
+    : {a b : A} {f : Hom A a b}
+    → is-prop (is-iso f)
+  is-iso-is-prop {a} {b} {f}
+    = is-prop←is-single-if-inhabited λ fiso
+    → is-single←equiv-to-single
+        ( ( precomp-hom-fibre≃Hom2 𝐴
```
Comment (samtoth) [inline src/Synthetic/Categories/Isomorphisms.lagda.tree]: Bracket layout here is Agda-unimath style. Remove leading spaces

File: src/Synthetic/Cubes.lagda.tree [hunk 4]
```diff
@@ -8,7 +8,7 @@
 \agda{
 open import Foundations.Prelude
 
-module Synthetic.Cubes {𝓘} (I : Type 𝓘) (i0 i1 : I) where
+module Synthetic.Cubes {𝓘} (Δ¹ : Type 𝓘) (i0 i1 : Δ¹) where
```
Comment (samtoth) [inline src/Synthetic/Cubes.lagda.tree]: The reason why I had written `I` rather than `Delta^1` originally was that this module is just in Synthetic rather that Synthetic.Categories, and it seems concievable to me that we might want to consider cubes in some other synthetic mathematics where it doesn't make sense for the interval to be `Delta^1`

File: src/Algebra/Lattice/Instances/Free/Inductive.lagda.tree [hunk 5]
```diff
@@ -131,7 +131,7 @@ instance
 Δ-path-is-prop : ∀ {n} {a b : Δ^ n} → is-prop (Δ-path a b)
 Δ-path-is-prop · · = refl
 Δ-path-is-prop (p :≥: q) (r :≥: s)
-  = ap₂ _:≥:_ (Δ-path-is-prop p r) prop!
+  = ap₂ (_:≥:_) (Δ-path-is-prop p r) prop!
```
Comment (samtoth) [inline src/Algebra/Lattice/Instances/Free/Inductive.lagda.tree:134]: Do you prefer these with brackets? It's easy enough to see what is going on and reduces clutter a bit without them... Could be willing to be persuaded

**Review by samtoth — COMMENTED** [review]
Sorry I haven't had time to do a proper review yet. This is just a few initial thoughts from skimming through.

**Comment by samtoth** [comment]
Also I understand the library is in quite a volatile state atm, but going forward it might be better to try and make separate PRs for the simple changes that will affect most files the library - which I should be able to review and merge quickly - so that PRs like this one are more focussed and easier to review.

File: src/Algebra/Lattice/Instances/Free/Inductive.lagda.tree (hunk 5 above)
Comment (fredrik-bakke) [reply src/Algebra/Lattice/Instances/Free/Inductive.lagda.tree:134]: I do prefer them with brackets, yes. They make the expression easier to parse for non-savants of Agda, which from my POV looks less cluttered.

File: src/Synthetic/Categories/Adjoints.lagda.tree (hunk 2 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/Adjoints.lagda.tree:60]: Sure, this seems like a reasonable proposal to me. Feel free to write an issue on this matter. I still think that when the argument is expected explicitly, as it is here, it is best to pass it too. Otherwise I personally get hung up on whether I should be able to infer it or not when I try to read it.

EDIT: Issue is now here #153

File: src/Synthetic/Cubes.lagda.tree (hunk 4 above)
Comment (fredrik-bakke) [reply src/Synthetic/Cubes.lagda.tree]: The distinction is a bit confusing to me because, for instance, for horns and boundaries you start using Δ¹ but they are also part of `Synthetic`. Anyways I'll revert the change

File: src/Synthetic/Categories/Isomorphisms.lagda.tree (hunk 3 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/Isomorphisms.lagda.tree]: I'm unsure what the proper formatting is here. Is the following what you have in mind?

```suggestion
      is-single←equiv-to-single
        (( precomp-hom-fibre≃Hom2 𝐴
              (is-prop-map←is-equiv (is-precomp-hom-equiv←is-iso 𝐴 fiso a))
          ×≃ postcomp-hom-fibre≃Hom2 𝐴
              (is-prop-map←is-equiv (is-postcomp-hom-equiv←is-iso 𝐴 fiso b)))
        ∙≃ is-iso≃is-split-mono×is-split-epi 𝐴 {f = f} e⁻¹)
        (×-is-single
          (has-singleton-fibres←is-equiv
            (is-precomp-hom-equiv←is-iso 𝐴 fiso a)
            (idH a))
          (has-singleton-fibres←is-equiv
            (is-postcomp-hom-equiv←is-iso 𝐴 fiso b)
            (idH b)))
```

File: src/Foundations/Equivalences.lagda.tree [hunk 6]
```diff
@@ -189,10 +189,11 @@ By taking the horizontal composition of these #{\alpha}'s gives us our desired #
 \agda{
 is-equiv←qinv : ∀ {𝓤 𝓥} {A : Type 𝓤} {B : Type 𝓥} {f : A → B} → quasi-inv f → is-equiv f
 is-equiv←qinv {f = f} (g , η , ε) = mk-eqv (g , η , ε') coh where opaque
-  ε' : f ∘ g ~ id
-  ε' = (ε ~⁻¹) ▸ f ▸ g ~∙
-       f ◂ η ▸ g       ~∙
-       ε
+  opaque
```
Comment (samtoth) [inline src/Foundations/Equivalences.lagda.tree]: This is already all in an opaque block. 
line 191:
```
mk-eqv (g , η , ε') coh where opaque
```

File: src/Foundations/FibrewiseEquivalences.lagda.tree [hunk 7]
```diff
@@ -40,23 +40,37 @@ total-map
     → (f : ∀ a → B a → B' a) → Σ A B → Σ A B'
 total-map f (a , b) = (a , f a b)
 
+ap-total-map-Σ-path→refl
```
Comment (samtoth) [inline src/Foundations/FibrewiseEquivalences.lagda.tree]:
```suggestion
ap-total-map-Σ-path-refl
```

File: src/Foundations/TransposingEqualitiesInverses.lagda.tree [hunk 8]
```diff
@@ -0,0 +1,123 @@
...
+        (eq-transpose←left-inverse-is-equiv)
+}
+}
+
+\subtree[fre-E849]{
+\title{Transposing equalities along equivalences}
+\taxon{Proposition}
+\author{fredrikbakke}
+\date{2026-05-13}
+
```
Comment (samtoth) [inline src/Foundations/TransposingEqualitiesInverses.lagda.tree:96]: Quick informal statement would be nice here

File: src/Foundations/TransposingEqualitiesInverses.lagda.tree [hunk 9]
```diff
@@ -0,0 +1,123 @@
...
+\subtree[fre-B2D7]{
+\date{2026-05-13}
+\author{fredrikbakke}
+\taxon{Proposition}
+\title{Transposing equalities along one-sided inverses}
+
+\p{
+Given two maps #{f : A \to B} and #{g : B \to A}, then #{g} being a
+[retraction](stt-000I) of #{f} is equivalent to having a transposing map
```
Comment (samtoth) [inline src/Foundations/TransposingEqualitiesInverses.lagda.tree]: I wonder if this could be phrased so that it is more obvious that being a retraction is not a property

**Review by samtoth — COMMENTED** [review]
A review of just the changes to Foundations modules

File: src/Foundations/Equivalences.lagda.tree (hunk 6 above)
Comment (fredrik-bakke) [reply src/Foundations/Equivalences.lagda.tree]: oh nice I didn't notice

File: src/Core/Arrows.lagda.tree [hunk 10]
```diff
@@ -882,9 +883,10 @@ fibre-square-is-cartesian f b = is-cartesian←is-pullback _ eq where
   map (x , p) = (tt , x , sym p)
 
   eq : is-equiv map
-  eq = is-equiv←qinv ((λ (_ , x , p) → (x , sym p))
-                     , (λ where (_ , refl) → refl)
-                     , λ where (_ , _ , refl) → refl)
+  eq = mk-eqv ((λ (_ , x , p) → (x , sym p))
+              , (λ where (_ , refl) → refl)
+              , λ where (_ , _ , refl) → refl)
```
Comment (samtoth) [inline src/Core/Arrows.lagda.tree]:
```suggestion
  eq = mk-eqv ( (λ (_ , x , p) → (x , sym p))
              , (λ where (_ , refl) → refl)
              , (λ where (_ , _ , refl) → refl))
```

File: src/Core/CanonicalPushouts.lagda.tree [hunk 11]
```diff
@@ -418,69 +412,105 @@ show the pushout of #{(A +^B C) +^D E} is canonically equivalent to
...
+\quiver{
+\begin{tikzcd}
+A && B \\
+\\
+C && C \amalg_A B
+\arrow["i", from=1-1, to=1-3]
+\arrow["j", from=1-1, to=3-1]
+\arrow["\iota_1", from=1-3, to=3-3]
+\arrow["\iota_2", from=3-1, to=3-3]
+\arrow[from=1-1, to=3-3, phantom, "\ulcorner"]
```
Comment (samtoth) [inline src/Core/CanonicalPushouts.lagda.tree]: This pushout mark is rendering in the middle of the square

Image

File: src/Core/PullbackPowers.lagda.tree [hunk 12]
```diff
@@ -570,8 +570,7 @@ module _
   Π̂-unstraight-fibre-fam≃Π̂ᶠ-unstraight-fibre-fam
     : Π̂-unstraight-fibre-fam ≃ᶠ Π̂ᶠ-unstraight-fibre-fam f g
   Π̂-unstraight-fibre-fam≃Π̂ᶠ-unstraight-fibre-fam
-    = id≃
-    , (λ t → coe≃ (ap (λ P → P t) (straighten-Π̂ᶠ-unstraight-bundle f g)))
+    = id≃ , (λ t → tr≃ (ev t) (straighten-Π̂ᶠ-unstraight-bundle f g))
```
Comment (samtoth) [inline src/Core/PullbackPowers.lagda.tree]:
```suggestion
    = (id≃ , (λ t → tr≃ (ev t) (straighten-Π̂ᶠ-unstraight-bundle f g)))
```

File: src/Core/WedgeSums.lagda.tree [hunk 13]
```diff
@@ -32,13 +32,49 @@ open import Ergonomics.Extensionality
...
+\taxon{Lemma}
+\author{fredrikbakke}
+\date{2026-05-14}
+
+\agda{
+Wedge-map-repr
+  : ∀ {𝓤 𝓥 𝓦} {A : Type 𝓤} {B : Type 𝓥} {X : Type 𝓦}
+    {a : A} {b : B}
+  → (Wedge a b → X) ≃ Σ[ f ∶ (A → X) ] Σ[ g ∶ (B → X) ] (f a ＝ g b)
+Wedge-map-repr {a = a} {b}
```
Comment (samtoth) [inline src/Core/WedgeSums.lagda.tree]:
```suggestion
Wedge-map-repr
```

File: src/Core/WedgeSums.lagda.tree [hunk 14]
```diff
@@ -32,13 +32,49 @@ open import Ergonomics.Extensionality
...
+}
+
+\subtree[fre-4AE5]{
+\title{Maps out of wedge sums}
+\taxon{Lemma}
+\author{fredrikbakke}
+\date{2026-05-14}
+
+\agda{
+Wedge-map-repr
```
Comment (samtoth) [inline src/Core/WedgeSums.lagda.tree]: Maybe `Wedge-UP→` is a better name for this?

File: src/Foundations/FibrewiseEquivalences.lagda.tree [hunk 15]
```diff
@@ -40,23 +40,37 @@ total-map
...
+    ＝ Σ-path→ (refl , ap (f a) p)
+ap-total-map-Σ-path-refl f refl = refl
+
 is-total-equiv←is-fibrewise-equiv
   : ∀ {𝓤 𝓥 𝓦} {A : Type 𝓤}
       {B : A → Type 𝓥} {B' : A → Type 𝓦} → {f : ∀ a → B a → B' a}
     → is-fibrewise-equiv f → is-equiv (total-map f)
-is-total-equiv←is-fibrewise-equiv {f = f} feq = is-equiv←qinv qinv where
-  module A x = is-equiv (feq x)
+is-total-equiv←is-fibrewise-equiv {A = A} {B = B} {f = f} feq = mk-eqv qinv coh where
```
Comment (samtoth) [inline src/Foundations/FibrewiseEquivalences.lagda.tree]:
```suggestion
is-total-equiv←is-fibrewise-equiv {f = f} feq = mk-eqv qinv coh where
```

File: src/Modalities/Cohesion/Flat.lagda.tree [hunk 16]
```diff
@@ -364,10 +364,10 @@ snd♭ = snd
     → (x : ⟨♭| A ⟩) → ♭ᶠ B x → B (ε♭ x)
 ε♭ᶠ: B = ε♭ᶠ
 
-Map-Σ-ε♭-ε♭~Σ♭-ε
+Σ♭-ε~Map-Σ-ε♭-ε♭
```
Comment (samtoth) [inline src/Modalities/Cohesion/Flat.lagda.tree]: I think the name can be shorted to something like:

```suggestion
Σ♭-ε~map-ε♭
```

Even though this doesn't have all the information, there is enough context to infer the more verbose name imo. It was quite hard to parse the name initially

**Review by samtoth — COMMENTED** [review]
Review Algebra, Core, Modalities

File: src/Core/WedgeSums.lagda.tree (hunk 14 above)
Comment (fredrik-bakke) [reply src/Core/WedgeSums.lagda.tree]: Wedge-UP≃ seems more appropriate seeing as it is an equivalence

Comment (samtoth) [reply src/Core/WedgeSums.lagda.tree]: Ooops yes - sorry I missed it was an equiv

File: src/Core/CanonicalPushouts.lagda.tree (hunk 11 above)
Comment (fredrik-bakke) [reply src/Core/CanonicalPushouts.lagda.tree]: This also introduces a new notation for pushouts in the same file as the `+^` notation is used. How do you wish me to resolve that?

Comment (fredrik-bakke) [reply src/Core/CanonicalPushouts.lagda.tree]: I can change all notation to `\amalg` for instance

Comment (samtoth) [reply src/Core/CanonicalPushouts.lagda.tree]: Ahh yeah, thanks for pointing that out. I think I prefer the look of `\amalg`

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree [hunk 17]
```diff
@@ -0,0 +1,553 @@
...
+
+\p{
+A composition triangle
+
+
+\quiver{
+\begin{tikzcd}
+  x && y \\
+	& z
+	\arrow["g", from=1-1, to=1-3]
```
Comment (samtoth) [inline src/Synthetic/Categories/AssociativitySegal.lagda.tree]: "g" and "f" should be swapped in this diagram

Comment (samtoth) [reply src/Synthetic/Categories/AssociativitySegal.lagda.tree]: I would also consider using the same object names as in the code to make it easier to read the two together

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree [hunk 18]
```diff
@@ -0,0 +1,553 @@
...
+        → ap (K .fst) (Δ²-ext (∨-comm ∙ 1-coinit , ∧-comm ∙ 1-top))
+        ∙ K .snd (ι₁ (ι₂ v))
+
+  composite-square-bottom
+    : (u : Δ¹) → composite-square .Homᵈ.hom u i0 ＝ f .Homᵈ.hom u
+  composite-square-bottom u
+    = ap (K .fst) (Δ²-ext (0-bottom , ∧-comm ∙ 0-init))
+    ∙ K .snd (ι₁ (ι₁ u))
+
+  composite-square-right
```
Comment (samtoth) [inline src/Synthetic/Categories/AssociativitySegal.lagda.tree]: Maybe I am confused here, but if `composite-square u 0` is bottom, then should `composite-square u 1` not be top? Also in other places i've tended to orient squares so that (0,0) is top left, (1,1) is bottom right.

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree [hunk 19]
```diff
@@ -0,0 +1,553 @@
...
+    = ap (K .fst) (Δ²-ext (∨-comm ∙ 0-bottom , 0-init))
+    ∙ K .snd (ι₁ (ι₁ u))
+
+  composite-square-target
+    : (u : Δ¹) → composite-square .Homᵈ.hom i1 u ＝ g .Homᵈ.hom u
+  composite-square-target u
+    = ap (K .fst) (Δ²-ext (∨-comm ∙ 1-coinit , ∧-comm ∙ 1-top))
+    ∙ K .snd (ι₁ (ι₂ u))
+
+  Hom2-boundary-natural
```
Comment (samtoth) [inline src/Synthetic/Categories/AssociativitySegal.lagda.tree]: Should this (and the couple of lemmas bellow) live somewhere like `Synthetic.Categories.Trinagles`?

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree [hunk 20]
```diff
@@ -0,0 +1,553 @@
...
+    → {σ : Poly.Δ² I}
+    → (p : σ ＝ ∂Δ²-incl v)
+    → (q : σ ＝ ∂Δ²-incl u)
+    → ap (K .fst) p ＝ ap (K .fst) q ∙ ap (K .fst ∘ ∂Δ²-incl) γ
+  Hom2-boundary-ap-path γ p q
+    = ap (ap (K .fst)) (Δ²-is-set _ _ p (q ∙ ap ∂Δ²-incl γ))
+    ∙ ap-∙ (K .fst) q (ap ∂Δ²-incl γ)
+    ∙ ap (ap (K .fst) q ∙_) (sym (ap-∘ (K .fst) ∂Δ²-incl γ))
+
+  composite-square-lower-left
```
Comment (samtoth) [inline src/Synthetic/Categories/AssociativitySegal.lagda.tree]: Maybe you could add some text between these bits of Agda emphasising that unlike in RS/Rzk we also need to give these additional coherences. You could then also give a hint as to why you are providing these theorems.

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree [hunk 21]
```diff
@@ -0,0 +1,553 @@
...
+          ∙ ap (_∙ sym (hg .Homᵈ.hom0))
+               (composite-square-lower-right g f gf-composite)
+          ∙ ∙-assoc _ _ _)
+
+  left-boundary-post
+    : (λ x → make-∂Δ² g⇒h f⇒g middle-hom x (∂Δ²-left-eval x))
+    ~ make-∂Δ² hg f triple-composite
+  left-boundary-post
+    = pushout-rec-unique _ _
+        ( left-horn-post)
```
Comment (samtoth) [inline src/Synthetic/Categories/AssociativitySegal.lagda.tree]:
```suggestion
        (left-horn-post)
```

And elsewhere

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree [hunk 22]
```diff
@@ -0,0 +1,553 @@
...
+  right-triangle-triple-composite : Hom2 h gf triple-composite
+  right-triangle-triple-composite .fst = right-face-middle-simplex
+  right-triangle-triple-composite .snd x
+    = happly (middle-boundary x) (∂Δ²-right-eval x)
+    ∙ right-boundary-post x
+}
+}
+
+\subtree[fre-B849]{
+\taxon{Theorem}
```
Comment (samtoth) [inline src/Synthetic/Categories/AssociativitySegal.lagda.tree:287]: Title

**Review by samtoth — COMMENTED** [review]
Review: Associativity of Segal types.

At the moment I find it quite hard to read the page, I have given some suggestions for the layout. You may also consider subtrees inside `\closedScope{...}` to emphasise the important parts of the formalisation over the smaller details.

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree (hunk 17 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/AssociativitySegal.lagda.tree]: Sorry but where do the names disagree?

Comment (samtoth) [reply src/Synthetic/Categories/AssociativitySegal.lagda.tree]: I mean the objects are x,y,z in the diagram and a,b,c in the code

File: src/Synthetic/Categories/AlgebraicLaws.lagda.tree [hunk 23]
```diff
@@ -18,6 +18,11 @@ module Synthetic.Categories.AlgebraicLaws
   {𝓘} (Δ¹ : Type 𝓘) (I : Lattice Δ¹) (I-distr : is-distributive I)
   where
 
+open import Synthetic.Categories.AssociativitySegal Δ¹ I I-distr public using
```
Comment (samtoth) [inline src/Synthetic/Categories/AlgebraicLaws.lagda.tree]: I don't think this should be imported here

File: src/Synthetic/Categories/Categories.lagda.tree [hunk 24]
```diff
@@ -0,0 +1,449 @@
...
+open import Synthetic.Categories.WalkingIso Δ¹ I I-distr
+}
+
+\subtree[fre-00N1]{
+\title{Rezk-completeness}
+\taxon{Definition}
+\author{fredrikbakke}
+
+\p{
+A type is \em{Rezk-complete} if it is null at the walking isomorphism.
```
Comment (samtoth) [inline src/Synthetic/Categories/Categories.lagda.tree]:
```suggestion
A type is \em{Rezk-complete} if it is null at the [walking isomorphism](fre-00NO).
```

File: src/Synthetic/Categories/WalkingIso.lagda.tree [hunk 25]
```diff
@@ -0,0 +1,446 @@
...
+}
+
+\agda{
+module _ {𝓤} {A : Type 𝓤} where opaque
+
+  ℑ-rep→←-src
+    : (x : Σ[ a ∶ A ] Σ[ b ∶ A ] Iso a b)
+    → ℑ-rep→ (ℑ-rep← x) .fst ＝ x .fst
+  ℑ-rep→←-src (a , b , f , g , h , η , ε)
+    = sym (fwd-Iso (ℑ-rep→ (ℑ-rep← (a , b , f , g , h , η , ε)) .snd .snd) .Homᵈ.hom0)
```
Comment (samtoth) [inline src/Synthetic/Categories/WalkingIso.lagda.tree]:
```suggestion
  ℑ-rep→←-src x@(a , b , f , g , h , η , ε)
    = sym (fwd-Iso (ℑ-rep→ (ℑ-rep← x) .snd .snd) .Homᵈ.hom0)
```

File: src/Synthetic/Categories/WalkingIso.lagda.tree [hunk 26]
```diff
@@ -0,0 +1,446 @@
...
+    ∙ η .snd (ι₁ (ι₁ i0))
+    ∙ f .Homᵈ.hom0
+
+  ℑ-rep→←-tgt
+    : (x : Σ[ a ∶ A ] Σ[ b ∶ A ] Iso a b)
+    → ℑ-rep→ (ℑ-rep← x) .snd .fst ＝ x .snd .fst
+  ℑ-rep→←-tgt (a , b , f , g , h , η , ε)
+    = sym (fwd-Iso (ℑ-rep→ (ℑ-rep← (a , b , f , g , h , η , ε)) .snd .snd) .Homᵈ.hom1)
```
Comment (samtoth) [inline src/Synthetic/Categories/WalkingIso.lagda.tree]:
```suggestion
  ℑ-rep→←-tgt x@(a , b , f , g , h , η , ε)
    = sym (fwd-Iso (ℑ-rep→ (ℑ-rep← x) .snd .snd) .Homᵈ.hom1)
```

Comment (samtoth) [reply src/Synthetic/Categories/WalkingIso.lagda.tree]: And elsewhere in this module

File: src/Synthetic/Categories/WalkingIso.lagda.tree [hunk 27]
```diff
@@ -0,0 +1,446 @@
...
+\p{
+To make our lives easier we show that \code{ℑ-rep←} is a section of \code{ℑ-rep→} in
+[Segal types](stt-00AI), using that \code{is-iso} is a proposition.
+}
+
+\agda{
+module _ {𝓤} {A : Type 𝓤} where opaque
+
+  ℑ-rep→←-src
+    : (x : Σ[ a ∶ A ] Σ[ b ∶ A ] Iso a b)
```
Comment (samtoth) [inline src/Synthetic/Categories/WalkingIso.lagda.tree]: Would
```suggestion
    : (x : TotalIso A)
```
be better?

File: src/Synthetic/Categories/Isomorphisms.lagda.tree [hunk 28]
```diff
@@ -0,0 +1,562 @@
...
+  Iso a b = Σ[ f ∶ Hom A a b ] is-iso f
+
+  fwd-Iso : {a b : A} → Iso a b → Hom A a b
+  fwd-Iso = fst
+
+  is-split-mono←is-iso
+    : {a b : A} {f : Hom A a b}
+    → is-iso f
+    → is-split-mono f
+  is-split-mono←is-iso (g , h , η , ε) = g , η
```
Comment (samtoth) [inline src/Synthetic/Categories/Isomorphisms.lagda.tree]:
```suggestion
  is-split-mono←is-iso (g , h , η , ε) = (g , η)
```

File: src/Synthetic/Categories/Isomorphisms.lagda.tree [hunk 29]
```diff
@@ -0,0 +1,562 @@
...
+
+  is-split-epi←is-iso
+    : {a b : A} {f : Hom A a b}
+    → is-iso f
+    → is-split-epi f
+  is-split-epi←is-iso (g , h , η , ε) = h , ε
```
Comment (samtoth) [inline src/Synthetic/Categories/Isomorphisms.lagda.tree]:
```suggestion
  is-split-epi←is-iso (g , h , η , ε) = (h , ε)
```

File: src/Synthetic/Categories/Isomorphisms.lagda.tree [hunk 30]
```diff
@@ -0,0 +1,562 @@
...
+
+  is-iso←is-split-mono×is-split-epi
+    : {a b : A} {f : Hom A a b}
+    → is-split-mono f × is-split-epi f
+    → is-iso f
+  is-iso←is-split-mono×is-split-epi ((g , η) , (h , ε)) = g , h , η , ε
```
Comment (samtoth) [inline src/Synthetic/Categories/Isomorphisms.lagda.tree]:
```suggestion
  is-iso←is-split-mono×is-split-epi ((g , η) , (h , ε)) = (g , h , η , ε)
```

File: src/Synthetic/Categories/Isomorphisms.lagda.tree [hunk 31]
```diff
@@ -0,0 +1,562 @@
...
+\agda{
+module _ {𝓤} {A : Type 𝓤} (𝐴 : is-segal A) where
+
+  ∘-is-iso
+    : {a b c : A} {g : Hom A b c} {f : Hom A a b}
+    → is-iso g → is-iso f → is-iso (g ∘[ 𝐴 ] f)
+  ∘-is-iso {g = g} {f} g-iso f-iso
+    = is-iso←is-postcomp-hom-equiv 𝐴 λ d →
+        is-equiv-~∘
+          ( λ k → id ∘[ 𝐴 ]-assoc)
```
Comment (samtoth) [inline src/Synthetic/Categories/Isomorphisms.lagda.tree]: I think this `id` is unnecessary?

```suggestion
          ( λ k → ∘[ 𝐴 ]-assoc)
```

File: src/Synthetic/Categories/Isomorphisms.lagda.tree [hunk 32]
```diff
@@ -0,0 +1,562 @@
...
+
+  is-iso←is-Δ¹-discrete
+    : is-Δ¹-discrete A → {a b : A} (f : Hom A a b) → is-iso f
+  is-iso←is-Δ¹-discrete A-Δ¹-disc {a} {b} f
+    = tr
+        ( is-iso)
+        ( is-equiv.ε (is-Hom←Id-equiv←is-Δ¹-discrete A-Δ¹-disc a b) f)
+        ( Iso←Id
+          ( is-equiv.bwd (is-Hom←Id-equiv←is-Δ¹-discrete A-Δ¹-disc a b) f)
+          .snd)
```
Comment (samtoth) [inline src/Synthetic/Categories/Isomorphisms.lagda.tree]:
```suggestion
        is-iso
        (is-equiv.ε (is-Hom←Id-equiv←is-Δ¹-discrete A-Δ¹-disc a b) f)
        (Iso←Id
          (is-equiv.bwd (is-Hom←Id-equiv←is-Δ¹-discrete A-Δ¹-disc a b) f)
          .snd)
```

File: src/Synthetic/Categories/Categories.lagda.tree [hunk 33]
```diff
@@ -0,0 +1,449 @@
...
+
+\subtree[fre-44QA]{
+\title{Comparison map between the total space of identities and isomorphisms}
+\author{fredrikbakke}
+\taxon{Lemma}
+\date{2026-05-15}
+
+\agda{
+is-Iso←Id-equiv : ∀ {𝓤} → Type 𝓤 → Type (𝓘 ⊔ 𝓤)
+is-Iso←Id-equiv A = (a b : A) → is-equiv (Iso←Id: a b)
```
Comment (samtoth) [inline src/Synthetic/Categories/Categories.lagda.tree]:
```suggestion
Iso←Id-is-equiv : ∀ {𝓤} → Type 𝓤 → Type (𝓘 ⊔ 𝓤)
Iso←Id-is-equiv A = (a b : A) → is-equiv (Iso←Id: a b)
```

File: src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree [hunk 34]
```diff
@@ -407,43 +409,59 @@ module _ {𝓤 𝓥 : Level} {A : Type 𝓤} {B : Type 𝓥} {f : A → B} where
...
+    = is-split-mono←eq 𝐴 (r , rη)
+    where
+    r : Hom A b a
+    r = is-equiv.bwd F-is-ff r'
+
+    rη : r ∘[ 𝐴 ] f ＝ idH a
+    rη = unap-equiv F-is-ff
+          ( unique-composite 𝐵 (ap-hom F r) (ap-hom F f)
+            ( ap-hom F (r ∘[ 𝐴 ] f))
+            ( ap-hom2 F r f (r ∘[ 𝐴 ] f) ∘[ 𝐴 ]-is-composite)
```
Comment (samtoth) [inline src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree]:
```suggestion
          (unique-composite 𝐵 (ap-hom F r) (ap-hom F f)
            (ap-hom F (r ∘[ 𝐴 ] f))
            (ap-hom2 F r f (r ∘[ 𝐴 ] f) ∘[ 𝐴 ]-is-composite)
```

Comment (samtoth) [reply src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree]: And elsewhere in this file

File: src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree [hunk 35]
```diff
@@ -407,43 +409,59 @@ module _ {𝓤 𝓥 : Level} {A : Type 𝓤} {B : Type 𝓥} {f : A → B} where
 }
 }
 
-\subtree[stt-00LQ]{
-\title{Fully faithful maps between precategories are conservative}
-\taxon{Theorem}
+\subtree[fre-R6N8]{
+\title{Fully faithful maps reflect split monos, epis, and isos}
+\taxon{Proposition}
 \author{fredrikbakke}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree:418]: I think this is worth an informal statement and proof sketch

File: src/Synthetic/Categories/Groupoids.lagda.tree
Comment (samtoth) [inline src/Synthetic/Categories/Groupoids.lagda.tree]:
```suggestion
is-groupoid←is-Δ¹-discrete×is-simplicial (Δ¹-discrete , simp) (inl tt) = Δ¹-discrete tt
```

Or just `_`

File: src/Synthetic/Categories/SplitEpimorphisms.lagda.tree [hunk 36]
```diff
@@ -0,0 +1,369 @@
...
+    = Σ[ fwd＝ ∶ SplitEpi-fwd f ＝ SplitEpi-fwd g ]
+      Σ[ sec＝ ∶ SplitEpi-sec f ＝ SplitEpi-sec g ]
+        Idᵈ (ap₂ (λ fwd sec → Hom2 fwd sec (idH b)) fwd＝ sec＝)
+          (SplitEpi-triangle f)
+          (SplitEpi-triangle g)
+
+  SplitEpi-path→
+    : {f g : SplitEpi a b}
+    → SplitEpi-Path f g → f ＝ g
+  SplitEpi-path→ {f = (f , (s , η))} {g = (.f , (.s , .η))} (refl , refl , refl)
```
Comment (samtoth) [inline src/Synthetic/Categories/SplitEpimorphisms.lagda.tree]:
```suggestion
  SplitEpi-path→ (refl , refl , refl)
```

File: src/Synthetic/Categories/SplitEpimorphisms.lagda.tree [hunk 37]
```diff
@@ -0,0 +1,369 @@
...
+    = refl
+
+  SplitEpi-path←
+    : {f g : SplitEpi a b}
+    → f ＝ g → SplitEpi-Path f g
+  SplitEpi-path← refl = refl , refl , refl
```
Comment (samtoth) [inline src/Synthetic/Categories/SplitEpimorphisms.lagda.tree]:
```suggestion
  SplitEpi-path← refl = (refl , refl , refl)
```

File: src/Synthetic/Categories/SplitEpimorphisms.lagda.tree [hunk 38]
```diff
@@ -0,0 +1,369 @@
...
+}
+}
+
+\subtree[fre-A0OM]{
+\title{Composition of split epimorphisms}
+\author{fredrikbakke}
+\taxon{Theorem}
+
+\p{
+In a Segal type split epimorphisms are closed under composition.
```
Comment (samtoth) [inline src/Synthetic/Categories/SplitEpimorphisms.lagda.tree]:
```suggestion
Split epimorphisms in a Segal type are closed under composition.
```

**Review by samtoth — COMMENTED** [review]
Partial review of Synthetic.Categories

File: src/Synthetic/Categories/Categories.lagda.tree (hunk 33 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/Categories.lagda.tree]: I chose the name `is-Iso←Id-equiv` to disambiguate from a _theorem_ that this map is an equivalence, which it seems is a form that is used some other places in the library, though I don't recall where atm.

Comment (samtoth) [reply src/Synthetic/Categories/Categories.lagda.tree]: Ahh yeah I get what you are saying. Hmm - I wonder if there is a more descriptive name we can give to this condition. I find the original phrasing a little hard to parse

File: src/Synthetic/Categories/AlgebraicLaws.lagda.tree (hunk 23 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/AlgebraicLaws.lagda.tree]: But it's an algebraic law... do you just want me to remove it?

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree (hunk 20 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/AssociativitySegal.lagda.tree]: Is something like the current draft what you had in mind?

File: src/Synthetic/Categories/Categories.lagda.tree (hunk 33 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/Categories.lagda.tree]: IDK... It can be changed later maybe? happy to use your suggestion as a temporary name

File: src/Synthetic/Categories/AlgebraicLaws.lagda.tree (hunk 23 above)
Comment (samtoth) [reply src/Synthetic/Categories/AlgebraicLaws.lagda.tree]: Sorry I'm a bit frazzled and completely missed the fact it was reexporting these. It is fine as is.

File: src/Synthetic/Categories/SplitEpimorphisms.lagda.tree [hunk 39]
```diff
@@ -0,0 +1,369 @@
...
+\taxon{Definition}
+
+\p{
+A \em{split epimorphism} is a morphism equipped with a retraction.
+}
+
+\agda{
+module _ {𝓤} {A : Type 𝓤} where
+
+  is-split-epi
```
Comment (samtoth) [inline src/Synthetic/Categories/SplitEpimorphisms.lagda.tree]: Being a split epi isn't a property right? Is there a name that avoids the `is` prefix

File: src/Synthetic/Categories/SplitMonomorphisms.lagda.tree [hunk 40]
```diff
@@ -0,0 +1,358 @@
...
+\p{
+A \em{split monomorphism} is a morphism equipped with a retraction.
+}
+
+\agda{
+module _ {𝓤} {A : Type 𝓤} where
+
+  is-split-mono
+    : {a b : A} → Hom A a b → Type (𝓘 ⊔ 𝓤)
+  is-split-mono {a} {b} f
```
Comment (samtoth) [inline src/Synthetic/Categories/SplitMonomorphisms.lagda.tree]: Ditto as for split-epi - I don't think this a property

File: src/Synthetic/Categories/AssociativitySegal.lagda.tree (hunk 20 above)
Comment (samtoth) [reply src/Synthetic/Categories/AssociativitySegal.lagda.tree]: Yep that looks good 👍

**Comment by samtoth** [comment]
Okay I've tried my best to find obvious issues, I think it would be good to get this merged in, can always refactor/clean up certain bits down the line if we need to. So feel free to rename the trees

File: src/Synthetic/Categories/SplitEpimorphisms.lagda.tree (hunk 39 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/SplitEpimorphisms.lagda.tree]: For sure it is not a property, I forgot that you used this convention for `is-`. An alternative that come to mind is `section-hom`, or `rinv-hom`...

Comment (fredrik-bakke) [reply src/Synthetic/Categories/SplitEpimorphisms.lagda.tree]: I went with `split-epi-witness`.

**Comment by fredrik-bakke** [comment]
> Okay I've tried my best to find obvious issues, I think it would be good to get this merged in, can always refactor/clean up certain bits down the line if we need to. So feel free to rename the trees

Done! 😁 Thank you so much for the detailed review

**Comment by samtoth** [comment]
> Done! 😁 Thank you so much for the detailed review

Great! Trees need renaming and then will merge - thanks for the (very significant!) contributation

File: src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree [hunk 41]
```diff
@@ -442,7 +442,7 @@ Now, by injectivity of the functorial action it suffices to show
 \p{
 We observe that the proof above only requires that the action on morphisms of
 #{F} has a section and is injective on endomorphisms (which in particular means the
-action on endomorphisms is an equivalence [[fre-Q1PW]]). We formalise the proof at
+action on endomorphisms is an equivalence [[]]). We formalise the proof at
```
Comment (samtoth) [inline src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree]: Hmm strange....

File: src/Synthetic/Categories/Categories.lagda.tree [hunk 42]
```diff
@@ -44,13 +44,13 @@ open import Synthetic.Categories.WalkingSplitHom Δ¹ I I-distr
...
 
-\subtree[fre-00N1]{
+\subtree[stt-00P8]{
 \title{Rezk-completeness}
 \taxon{Definition}
 \author{fredrikbakke}
 
 \p{
-A type is \em{Rezk-complete} if it is null at the [walking isomorphism](fre-00NO).
+A type is \em{Rezk-complete} if it is null at the [walking isomorphism]().
```
Comment (samtoth) [inline src/Synthetic/Categories/Categories.lagda.tree]: And here 🤔

**Review by samtoth — COMMENTED** [review]
Some error with tree renaming - annoyingly. Haven't encountered this before

File: src/Synthetic/Categories/Categories.lagda.tree (hunk 42 above)
Comment (samtoth) [reply src/Synthetic/Categories/Categories.lagda.tree]:
```suggestion
A type is \em{Rezk-complete} if it is null at the [walking isomorphism](stt-00P7).
```

File: src/Foundations/Equivalences.lagda.tree [hunk 43]
```diff
@@ -262,6 +261,22 @@ is-equiv←is-equiv-if-cod {f = f} feqb
 }
 }
 
+\subtree[]{
```
Comment (samtoth) [inline src/Foundations/Equivalences.lagda.tree]: Very stange indeed

**Comment by samtoth** [comment]
Was the forest definitely built (or at least source files copied via `make sync-forest-src`) when you ran the tree rename?

**Comment by fredrik-bakke** [comment]
> Was the forest definitely built (or at least source files copied via `make sync-forest-src`) when you ran the tree rename?

Yes, there were no errors in the build process.

**Comment by samtoth** [comment]
Need to transclude new changelog tree in changelog

**Comment by fredrik-bakke** [comment]
> Need to transclude new changelog tree in changelog

done

File: src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree (hunk 41 above)
Comment (fredrik-bakke) [reply src/Synthetic/Categories/FullyFaithfulMaps.lagda.tree]: I tried the renamer again today and now this one worked for some reason, but not the other.
